US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(methylamino)thiazole-4-carboxamide was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.389 g, 1.343 mmol) and 2-(methylamino)thiazole-4-carboxylic acid (255 mg, 1.612 mmol). The product was purified by Flash-chromatography and triturated using diethyl ether. Yield 8.28%. 1H-NMR (400 MHz; DMSO-d6): δ 1.21 (d, 3H), 2.85 (d, 3H), 4.28-4.43 (m, 3H), 6.96 (d, 1H), 7.18 (s, 1H), 7.59 (q, 1H), 7.84 (d, 1H), 7.91 (d, 1H), 7.95-7.96 (m, 2H), 8.08 (dd, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 1.343 mmol, 0.389 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 2-(methylamino)thiazole-4-carboxylic acid | 1.612 mmol, 255 mg | CNC=1SC=C(N1)C(=O)O | C5H6N2O2S
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(methylamino)thiazole-4-carboxamide | Yield 8.28% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)NC | C18H17ClN6OS
